US04556654
5-[[2-[(2-Aminoethyl)amino]ethyl]amino]-7,10-dihydroxy-2-(2-hydroxyethyl)anthra[1,9-cd]-pyrazol-6(2H)-one
A mixture of 5.1 g (10 mmol) of 5-chloro-2-(2-hydroxyethyl)-7,10-bis(phenylmethoxy)anthra[1,9-cd]-pyrazol-6(2H)-one, 10 g (100 mmol) of diethylenetriamine, 1.4 g (10 mmol) of anhydrous potassium carbonate, and 60 ml of pyridine is heated at reflux for 28 hours. The mixture is cooled, the solids are collected by filtration then washed sequentially with water and 2-propanol to give 3.1 g of the product; mp 185°-190° C.

reactant | 5-chloro-2-(2-hydroxyethyl)-7,10-bis(phenylmethoxy)anthra[1,9-cd]-pyrazol-6(2H)-one | 10 mmol, 5.1 g | ClC=1C=CC=2N(N=C3C2C1C(C1=C(C=CC(=C13)OCC1=CC=CC=C1)OCC1=CC=CC=C1)=O)CCO | C30H23ClN2O4
reactant | diethylenetriamine | 100 mmol, 10 g | NCCNCCN | C4H13N3
reactant | potassium carbonate | 10 mmol, 1.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | pyridine | 60 ml | N1=CC=CC=C1 | C5H5N
product | 5-[[2-[(2-Aminoethyl)amino]ethyl]amino]-7,10-dihydroxy-2-(2-hydroxyethyl)anthra[1,9-cd]-pyrazol-6(2H)-one | 3.1 g | NCCNCCNC=1C=CC=2N(N=C3C2C1C(C1=C(C=CC(=C13)O)O)=O)CCO | C20H23N5O4
